US05387685
(3,4-Dimethoxyphenyl)(2-pyridylthio)acetonitrile
To a 5° C. solution of 3,4-dimethoxyphenyl acetonitrile in 40 ml of tetrahydrofuran is added, dropwise over a period of 20 minutes, 30.0 ml of sodium bis(trimethylsilyl)amide. The resultion mixture is stirred at 0°-5° C. for 50 minutes. A solution of 3.33 g of 2,2'-dipyridyl disulfide in 10 ml of tetrahydrofuran is added, dropwise at 0°-5° C. The reaction is stirred at 5° C. for 40 minutes and then at room temperature for 1.5 hours. The reaction is poured into ice water and extracted with ethyl acetate. The organic layer is washed with saturated sodium chloride, dried and concentrated in vacuo to give an oil which solidified on standing. The solid is dissolved in 16 ml of hot ethyl acetate to which 12 ml of hexane is added and the mixture is left at room temperature for 0.5 hour followed by cooling overnight in the refrigerator. The crystals are collected and dried to give 2.75 g of the desired product.

reactant | 3,4-dimethoxyphenyl acetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | sodium bis(trimethylsilyl)amide | 30.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2,2'-dipyridyl disulfide | 3.33 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 12 ml | CCCCCC | C6H14
product | (3,4-Dimethoxyphenyl)(2-pyridylthio)acetonitrile | 2.75 g | COC=1C=C(C=CC1OC)C(C#N)SC1=NC=CC=C1 | C15H14N2O2S
